Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with history of bladder cancer s/p ileal 
conduit/urostomy and gallbladder carcinoma s/p ccy/partial 
hepatectomy presents with three days of worsening 
weakness/dizziness. Pt reports several months of feeling 
fatigued as well as ___ weakness which he believes is primarily 
secondary to hip pain. On review of records, he has a h/o hip 
pain which was evaluated by orthopedics and felt to be secondary 
to a right gluteus medius/minimus muscle strain in tendinopathy. 
He states his ___ weakness and hip pain has improved with ___.

Pt states he went golfing last week and then experienced 
worsening fatigue. He noted his urine output in his urostomy 
bag, which is normally clear yellow, was dark and cloudy. He has 
also believes he may have had some subjective fevers at home as 
well. In the setting of feeling unwell for several days, he 
thinks he may have lost up to 10 lb. Denies cough, SOB, 
wheezing, CP, n/v/d. No abdominal pain or change in bowel 
habits. No recent travel or sick contacts. Per family members, 
patient appeared somewhat confused and fatigued. Pt was seen by 
his physician who obtained labs, significant for positive UA. 

In the ED, initial vitals: 102.9 60 166/45 24 95% ra  
-Labs were signficant for wbc ct 11.8, h/h 12.6/36.3, Cr 1.5, 
trop 0.01, lactate 2.3. UA with many bacteria, mod leuks, pos 
nitrites. 
-Imaging signficant for CXR with relatively low lung volumes, 
which accentuate the bronchovascular markings. Given this, 
subtle bibasilar opacities may relate to vascular crowding, 
however, underlying infection cannot be excluded in the 
appropriate clinical setting. 
-Pt was noted to have frequent NSVT ___ sec runs) on arrival. 
Cardiology was consulted who recommended to treat primary 
infection, no indication for anti-arrythmics.
-Pt was given 1L NS, zosyn and tylenol.
-On transfer, vitals were:  99.5 87 110/46 16 98% Nasal Cannula 

On arrival to the MICU, pt states he is feeling well. Denies any 
CP, SOB, abd pain, n/v.  

Of note, he was last hospitalized in ___ with presumed 
urosepsis (urine/blood cx not positive that admission). Prior 
cx's include MRSA, Enterococcus, Pan sensitive E coli, Pan 
sensitive klebsiella oxytoca. 

Review of systems:  
(+) Per HPI  
(-) Denies headache, sinus tenderness, congestion. Denies cough, 
shortness of breath, or wheezing. Denies chest pain, chest 
pressure, palpitations, or weakness. Denies nausea, vomiting, 
diarrhea, constipation, abdominal pain, or changes in bowel 
habits.  Denies rashes or skin changes.  

 
Past Medical History:
Coronary artery disease 
Hypercholesterolemia
Glucose intolerance
Hypertension
Remote hx bladder ca s/p ileal conduit 
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___ 
Glaucoma
Osteopenia
Recurrent UTIs and bacteremias: MRSA, Enterococcus, Pan 
sensitive E coli, Pan sensitive klebsiella

 
Social History:
___
Family History:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: 99.8, 118/60, 72, 98% on RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM
NECK: supple, JVP not elevated 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, no MRG 
ABD: soft, non-tender, non-distended, urostomy bag draining dark 
yellow urine, stoma pink and patent; well healed surgical scar
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no rashes or lesions
NEURO: AOx3, ___ upper and lower extremity strength; mildly 
tremulous on exam 

DISCHARGE PHYSICAL EXAM:
Vitals: Tm 98.4, 134/75, 76, 20, 96%RA
General:  Pleasant, obese elderly male in NAD, A&Ox3
HEENT:  Anicteric sclera, MMM
CV:  RRR w/o m/r/g
Lungs:  Clear to auscultation
Abdomen:  Urostomy bag in place over stoma without erythema or 
purulence, some mucus in the collection bag.
Ext:  No edema

 
Pertinent Results:
==== ADMISSION LABS ====

___ 01:35PM BLOOD WBC-9.1 RBC-4.04* Hgb-12.7* Hct-37.6* 
MCV-93 MCH-31.3 MCHC-33.7 RDW-13.6 Plt ___
___ 01:35PM BLOOD Neuts-69.0 ___ Monos-8.1 Eos-0.3 
Baso-0.3
___ 01:35PM BLOOD UreaN-26* Creat-1.4* Na-142 K-3.8 Cl-104 
HCO3-27 AnGap-15
___ 01:35PM BLOOD ALT-33 AST-29 CK(CPK)-44* AlkPhos-82 
TotBili-0.6
___ 01:35PM BLOOD Albumin-4.1 Calcium-11.3* Phos-3.7 Mg-1.9 
Cholest-121
___ 08:40PM BLOOD Lactate-2.3*

==== PERTINENT LABS ====

___ 08:33PM BLOOD WBC-11.8* RBC-3.95* Hgb-12.6* Hct-36.3* 
MCV-92 MCH-31.9 MCHC-34.7 RDW-13.5 Plt ___
___ 07:02AM BLOOD ___-9.0 RBC-3.55* Hgb-11.5* Hct-32.6* 
MCV-92 MCH-32.3* MCHC-35.1* RDW-13.4 Plt ___
___ 07:02AM BLOOD Glucose-187* UreaN-20 Creat-1.3* Na-140 
K-3.9 Cl-103 HCO3-26 AnGap-15
___ 01:35PM BLOOD %HbA1c-6.7* eAG-146*

==== MICRO ====

___ C.difficile PCR: NEGATIVE

___ Blood Culture: No growth to date

___ Urine Culture: No growth (final)

URINE CULTURE FROM ___ (Finalized ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      KLEBSIELLA OXYTOCA.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------                8 S
AMPICILLIN/SULBACTAM--  =>32 R        4 S
CEFAZOLIN-------------  =>64 R      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------    32 S     <=16 S
PIPERACILLIN/TAZO-----              <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

==== IMAGING ====

EKG (___):
Marked resting sinus tachycardia with atrial premature beats. 
Frequent 
ventricular premature beats and a five beat run of non-sustained 
ventricular tachycardia at a rate of about 160. Left atrial 
abnormality. Intraventricular conduction delay with left axis 
deviation. Non-specific ST-T wave changes. Cannot exclude prior 
inferior wall myocardial infarction. Cannot exclude anterior 
wall myocardial infarction in the presence of the 
intraventricular conduction delay. Compared to the previous 
tracing of ___ non-sustained ventricular tachycardia is now 
seen. Clinical correlation is suggested. 

CXR (___):
Relatively low lung volumes, which accentuate the 
bronchovascular markings. Given this, subtle bibasilar opacities 
may relate to vascular crowding, however, underlying infection 
cannot be excluded in the appropriate clinical setting. If 
clinical concern persists, suggest dedicated PA and lateral 
views when patient able.

TTE (___):
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is mildly 
dilated. There is mild regional left ventricular systolic 
dysfunction with probable inferior hypokinesis. The remaining 
segments contract normally (LVEF = 40-45%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. There 
is no aortic valve stenosis. No aortic regurgitation is seen. 
Trivial mitral regurgitation is seen. There is no pericardial 
effusion. 
IMPRESSION: Suboptimal study. Mild regional left ventricular 
systolic dysfunction, c/w CAD. Compared with the prior study 
(images reviewed) of ___, the findings are similar.  

EKG (___):
Resting sinus tachycardia. Compared to the previous tracing of 
___ 
abnormalities are as reported including frequent ventricular 
premature 
beats with a single ventricular couplet. Non-sustained 
ventricular tachycardia is not noted on the present tracing. P-R 
interval prolongation, especially considering the heart rate. 
Clinical correlation is suggested. 

CXR (___):
As compared to previous radiograph of 1 day earlier, increased 
lung volumes are associated with improved aeration at both lung 
bases.  No other relevant changes. 

RENAL ULTRASOUND (___):
Normal kidneys bilaterally.  No perinephric abscess identified.

 
Brief Hospital Course:
___ male with history of bladder cancer s/p ileal 
conduit/urostomy and gallbladder carcinoma s/p cholecystectomy 
and partial hepatectomy who presented with three days of 
worsening weakness/dizziness, subsequently found to have sepsis 
from a urinary source.

# Sepsis: On admission, patient met ___ SIRS criteria with 
fevers and leukocytosis. Presumed source was urinary given 
positive UA and h/o urosepsis in past, as well as predisposition 
to UTI due to his urostomy. CXR could not rule out infection 
however no clinical signs of pneumonia such as cough or SOB. 
Initially admitted to MICU given hypotension to mid-80s systolic 
blood pressure. His hypotension was readily responsive to 2L of 
normal saline. He was treated with vancomycin and zosyn given 
prior urine culture data dating back to ___ with various 
organisms including Klebsiella (zosyn sensitive), MRSA, 
enterococcus, and pan-sensitive E.coli. This admission, his 
urine culture grew Klebsiella oxytoca (resistant only to 
ampicillin/sulbactam) and pan-sensitive E.coli. He was therefore 
switched from vanc/zosyn to ciprofloxacin PO on ___. Bilateral 
renal ultrasound on ___ revealed no evidence of perinephric 
abscess. Blood cultures were without growth at time of 
discharge.

# Non-Sustained Ventricular Tachycardia: Patient had multiple 
runs of NSVT on arrival to ED, likely triggered by sepsis. 
Cardiology was consulted and recommended outpatient stress test 
with imaging once the patient recovers from his acute illness. 
They also recommended re-initiation of his beta blocker once 
hemodynamically stable from his sepsis. His metoprolol was 
subsequently restarted on ___. The patient's ectopy became 
notably less frequent with treatment of his sepsis and 
improvement in his clinical condition. TTE revealed no 
significant changes from his prior study. He will undergo an 
outpatient cardiac stress test with imaging to be arranged by 
his cardiologist Dr. ___.

==== TRANSITIONAL ISSUES ====

# NSVT
- Follow up appointment with Dr. ___ on ___ at 
which time an outpatient stress test with imaging can be 
scheduled (as per the recommendations of the inpatient 
cardiology consult service)

# Sepsis
- Patient will complete a total of 14 days of antibiotics for 
his urosepsis (___) and was discharged on ciprofloxacin PO

# Systolic CHF:
- Patient's lisinopril was held during his admission due to soft 
blood pressures. Please re-assess the indications for this 
medication at follow up.

CODE: Full (confirmed)  
EMERGENCY CONTACT HCP: ___ (___, ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO TID 
2. Aspirin 81 mg PO DAILY 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
4. Calcium Carbonate 500 mg PO TID 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin B Complex 1 CAP PO DAILY 
7. Lisinopril 5 mg PO DAILY 
8. Metoprolol Tartrate 12.5 mg PO BID 
9. Acetaminophen 650 mg PO BID:PRN pain 
10. Atorvastatin 20 mg PO QPM 
11. Vitamin D 1000 UNIT PO DAILY 
12. Cyanocobalamin 1000 mcg PO DAILY 
13. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
14. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Outpatient Physical Therapy
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
5. Calcium Carbonate 500 mg PO TID 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 
11. Vitamin B Complex 1 CAP PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Ciprofloxacin HCl 500 mg PO Q12H Duration: 11 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*22 Tablet Refills:*0
14. Acetaminophen 650 mg PO BID:PRN pain 
15. Ascorbic Acid ___ mg PO TID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Sepsis arising from a urinary source
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ with progressive weakness. 
You were found to have sepsis which originated from a urinary 
tract infection. You were treated with antibiotics and fluids 
and have made an excellent recovery. You are now ready for 
discharge home where you will receive home physical therapy to 
help you regain your strength.

It was a pleasure to take care of you during your hospital stay.

Sincerely,
Your ___ Team
 
Followup Instructions:
___